US08048909B2
tert-Butyl methyl[(1-{[3-(morpholin-4-ylcarbonyl)phenyl]sulfonyl}-5-phenyl-1H-pyrrol-3-yl)methyl]carbamate
Using 3-[(4-{[(tert-butoxycarbonyl)(methyl)amino]methyl}-2-phenyl-1H-pyrrol-1-yl)sulfonyl]benzoic acid (150 mg) and morpholine (42 mg), a procedure as in Reference Example 284 was performed to give the title compound as a colorless oil (yield 164 mg, 95%).

reactant | 3-[(4-{[(tert-butoxycarbonyl)(methyl)amino]methyl}-2-phenyl-1H-pyrrol-1-yl)sulfonyl]benzoic acid | 150 mg | C(C)(C)(C)OC(=O)N(C)CC=1C=C(N(C1)S(=O)(=O)C=1C=C(C(=O)O)C=CC1)C1=CC=CC=C1 | C24H26N2O6S
reactant | morpholine | 42 mg | N1CCOCC1 | C4H9NO
product | tert-Butyl methyl[(1-{[3-(morpholin-4-ylcarbonyl)phenyl]sulfonyl}-5-phenyl-1H-pyrrol-3-yl)methyl]carbamate | yield 164 mg, 95% | CN(C(OC(C)(C)C)=O)CC1=CN(C(=C1)C1=CC=CC=C1)S(=O)(=O)C1=CC(=CC=C1)C(=O)N1CCOCC1 | C28H33N3O6S
